US05604237
(b) 3,4-Dimethoxy-N-methylbenzenemethanamine
3,4-Dimethoxybenzenemethanamine (100 g) was mixed with benzaldehyde (64 g), and rotoevaporated to give an oil. Methyl iodide (75 ml) was then added and the mixture was heated for 48 h at 40° and then boiled with 80% ethanol (800 ml) for 3 h. After half of the ethanol had evaporated, the solution was treated with ether (1 liter) to give a solid that was filtered, washed with ether, treated with dilute sodium hydroxide and extracted with ether to give the title compound (69 g) as an oil that was distilled under reduced pressure, b.p. 0.03 mm; 91°.

reactant | 3,4-Dimethoxybenzenemethanamine | 100 g | COC=1C=C(C=CC1OC)CN | C9H13NO2
reactant | benzaldehyde | 64 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Methyl iodide | 75 ml | CI | CH3I
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 3,4-Dimethoxy-N-methylbenzenemethanamine | 69 g | COC=1C=C(C=CC1OC)CNC | C10H15NO2
